US07700625B2
A stirred solution of 4-methoxyphthalimide (21.3 g, 0.12 mol) in anhydrous tetrahydrofuran (425 ml) at 0° C. was treated dropwise with a solution of borane in tetrahydrofuran (1M, 340 ml, 0.34 mol) and the resulting mixture was stirred and held at reflux for 16 hours. The mixture was cooled to 0° C., methanol (150 ml) was added dropwise followed by 5M hydrochloric acid (150 ml) and the mixture was stirred and held at reflux for 3 hours. Upon cooling to room temperature the organic solvent was removed in vacuo, the mixture was diluted with water (750 ml) and was extracted with dichloromethane (3×750 ml). The aqueous layer was basified to pH 12 or above by the addition of 5M sodium hydroxide, extracted with dichloromethane (3×750 ml) and the combined extracts were evaporated to dryness in vacuo to afford 5-methoxyisoindoline (8.34 g, 47%) as a brown oil. 1H NMR (DMSO-d6) 7.13 (1H, d), 6.84 (1H, d), 6.74 (1H, dd), 4.05 (2H, s), 4.01 (2H, s), 3.73 (3H, s). MS: [M+H]+ 150.

reactant | 4-methoxyphthalimide | 0.12 mol, 21.3 g | COC=1C=C2C(C(=O)NC2=O)=CC1 | C9H7NO3
reactant | borane | B | BH3
reactant | methanol | 150 ml | CO | CH4O
reactant | hydrochloric acid | 5M, 150 ml | Cl | ClH
solvent | tetrahydrofuran | 425 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.34 mol, 1M, 340 ml | O1CCCC1 | C4H8O
product | 5-methoxyisoindoline | 8.34 g, 47% | COC=1C=C2CNCC2=CC1 | C9H11NO
